US07820654B2
(4,6-Dichloro-pyrimidin-2-yl)-(4-trifluoromethoxy-phenyl)-amine (0.3 g, 0.92 mmol) was reacted with 4-fluoro-phenyl boronic acid (0.25 g, 1.8 mmol) in presence of a catalyst Pd(OAc)2 (7 mg, 0.02 mmol) and sodium carbonate (0.78 g, 7.4 mmol) in a solvent DMF (10 mL) at 80° C. for 12 hours. Followed by work up and column purification to yield [4,6-bis-(4-fluoro-phenyl)-pyrimidin-2-yl]-(4-trifluoromethoxy-phenyl)-amine.

reactant | (4,6-Dichloro-pyrimidin-2-yl)-(4-trifluoromethoxy-phenyl)-amine | 0.92 mmol, 0.3 g | ClC1=NC(=NC(=C1)Cl)NC1=CC=C(C=C1)OC(F)(F)F | C11H6Cl2F3N3O
reactant | 4-fluoro-phenyl boronic acid | 1.8 mmol, 0.25 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 7.4 mmol, 0.78 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(OAc)2 | 0.02 mmol, 7 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [4,6-bis-(4-fluoro-phenyl)-pyrimidin-2-yl]-(4-trifluoromethoxy-phenyl)-amine | FC1=CC=C(C=C1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)NC1=CC=C(C=C1)OC(F)(F)F | C23H14F5N3O
